US08710063B2
Dissolve 8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)-9-(2-methylsulfanylethyl)purine (38.5 g, 92.3 mmol) in a solution of tetrahydrofuran (277 mL) and methanol (277 mL). Prepare a solution of potassium peroxymonosulfate (Oxone®) (79.5 g, 129.3 mmol) in water (554 mL). Add the potassium peroxymonosulfate solution (300 mL) over a 5 min period and stir for 30 min. Then add additional potassium peroxymonosulfate solution (150 mL, followed by 50 mL after 30 min). Stir the reaction mixture for 30 min following the final addition. Add solid sodium metabisulfite (49.1 g, 258.5 mmol) and stir the mixture at ambient temperature overnight. Add aqueous sodium bicarbonate solution (400 mL) and extract into ethyl acetate (3×1 L). Dry the combined organic layer over anhydrous sodium sulfate, filter, and concentrate to afford an orange residue. Purify the residue on a silica gel column using 5-50% ethanol in 1:1 dichloromethane-hexane as eluent. Combine and evaporate the appropriate fractions to provide a solid. Triturate the solid with ether and dry under vacuum to afford 8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)-9-(2-methylsulfonylethyl)purine (11.4 g). ES/MS m/z 449 (M+1).

reactant | 8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)-9-(2-methylsulfanylethyl)purine | 92.3 mmol, 38.5 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)CCSC | C20H25ClN6S
reactant | potassium peroxymonosulfate | 129.3 mmol, 79.5 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | potassium peroxymonosulfate | 300 mL | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | potassium peroxymonosulfate | 150 mL | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | sodium metabisulfite | 258.5 mmol, 49.1 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 277 mL | O1CCCC1 | C4H8O
solvent | methanol | 277 mL | CO | CH4O
solvent | water | 554 mL | O | H2O
product | 8-(2-chlorophenyl)-2-methyl-6-(4-methylpiperazin-1-yl)-9-(2-methylsulfonylethyl)purine | 11.4 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)CCS(=O)(=O)C | C20H25ClN6O2S
